US05536836
Preparation of 2-{4- [4- (4-chloro-1-pyrazolyl)-butyl]-1-piperazinyl}pyrimidine.
To a mixture of 2- (1-piperazinyl)pyrimidine (32.8 g; 0.2 mol), 1,4-dibromobutane (47.5 g; 0.22 mol) and K2CO3 (69 g; 0.5 tool) in 400 ml of dimethylformamide is added 4 -chloropyrazole (20.5 g; 0.2 mol), and the mixture is held at the reflux for 17 hours. The reaction mixture is filtered hot and evaporated to dryness. The residue is dissolved in HCl, washed with CHCl3, rendered alkaline with dilute NaOH and extracted in basic medium with CHCl3. The organic phase is then dried and subsequently evaporated to dryness, and 61 g (95%) of 2-{4-[4-(4-chloro-1-pyrazolyl)butyl]-1-piperazinyl}pyrimidine are obtained.

reactant | 2- (1-piperazinyl)pyrimidine | 0.2 mol, 32.8 g | N1(CCNCC1)C1=NC=CC=N1 | C8H12N4
reactant | 1,4-dibromobutane | 0.22 mol, 47.5 g | BrCCCCBr | C4H8Br2
reactant | K2CO3 | 69 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 4 -chloropyrazole | 0.2 mol, 20.5 g | ClC=1C=NNC1 | C3H3ClN2
solvent | dimethylformamide | 400 ml | CN(C=O)C | C3H7NO
product | 2-{4- [4- (4-chloro-1-pyrazolyl)-butyl]-1-piperazinyl}pyrimidine | ClC=1C=NN(C1)CCCCN1CCN(CC1)C1=NC=CC=N1 | C15H21ClN6
